US06235787B1
A solution of 0.246 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide in a mixture of 10 ml of methanol and 2 ml of dichloromethane was treated with 0.006 ml of methanesulphonic acid. The mixture was stirred for 3 hours at room temperature and then the solvent was evaporated. The residue was partitioned between ethyl acetate and water. The ethyl acetate layer was dried over anhydrous magnesium sulphate and the solvent evaporated. The residue was triturated with hexane to give 0.119 g of (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | 0.246 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNS(=O)(=O)C)CC(C)C | C23H35N3O6S
reactant | methanesulphonic acid | 0.006 ml | CS(=O)(=O)O | CH4O3S
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide | 0.119 g | ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(S(=O)(=O)C)CC(C)C)CC(C)C | C22H35N3O5S
